US05185419
(e) Preparation of 4,4'-bis(4-(3-butenyl)styryl)biphenyl
In the infra-red spectrum (KBr disc), significant bands are shown at 1512 (w), 1493 (w), 1415 (w), 1260 (s), 1095 (s), 1025 (s) and 800 (s) cm-1, and in the UV spectrum, in tetrahydrofuran as solvent, λmax (1 g ε)=350 nm (4.63).

reactant | KBr | [K+].[Br-]
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4,4'-bis(4-(3-butenyl)styryl)biphenyl | C(CC=C)C1=CC=C(C=CC2=CC=C(C=C2)C2=CC=C(C=C2)C=CC2=CC=C(C=C2)CCC=C)C=C1 | C36H34
